### PR TITLE
Batched evaluation algorithm (without proofs)

### PR DESCRIPTION
**Pull request by oflatt**
This PR adds a batched evaluation algorithm for cedar expressions.
This will enable efficient loading of entities from a backing database during a request. Compared to entity manifests, the algorithm is simple and it will load the same or fewer entities.

To make batched evaluation sound, it was necessary to extend partial evaluation so that the user can include `MissingEntity` objects in the partial entities store.

### CODE REVIEW

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 1]
```diff
@@ -0,0 +1,156 @@
...
+    then batchedEvalLoop new_expr_res req loader new_store
+    else Cedar.Spec.evaluate expr.toExpr req new_store
+
+termination_by TypedExpr.size expr
+decreasing_by
+  simp [TypedExpr.size]
+  omega
+
+
+/--
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: Thanks for the PR!  

The current approach is feasible but it will take a lot of effort to continue down this path.  It'll be really hard to define `Value.asTypedExpr` and prove it correct for extension types.  Effectively, we'd have to find a way to convert the internal representation of each extension value back into a string argument to the right constructor, and then prove that this transformation is correct (a roundtrip lemma).  This would be quite challenging for Datetimes and IpAddr.

Here is what I'd do instead.  It is a more direct path (I think) though direct != easy in this case :) 

### Step 1:  Change TPE to work on Residuals rather than TypedExprs

The first step is the change the TPE code as follows:
```
import Cedar.TPE.Input
import Cedar.TPE.Residual

namespace Cedar.TPE

open Cedar.Data
open Cedar.Spec
open Cedar.Validation

--- Same as before ---

def evaluate
  (x : Residual)
  (req : PartialRequest)
  (es : PartialEntities) : Residual :=
  match x with
  | .val v ty => .val v ty
  | .var v ty => varₚ req v ty
  | .error ty => .error ty 
  | .ite x₁ x₂ x₃ ty =>
    ite (evaluate x₁ req es) (evaluate x₂ req es) (evaluate x₃ req es) ty
  | .and x₁ x₂ ty =>
    and (evaluate x₁ req es) (evaluate x₂ req es) ty
  | .or x₁ x₂ ty =>
    or (evaluate x₁ req es) (evaluate x₂ req es) ty
  | .unaryApp op₁ x₁ ty =>
    apply₁ op₁ (evaluate x₁ req es) ty
  | .binaryApp op₂ x₁ x₂ ty =>
    apply₂ op₂ (evaluate x₁ req es) (evaluate x₂ req es) es ty
  | .hasAttr x₁ a ty =>
    hasAttr (evaluate x₁ req es) a es ty
  | .getAttr x₁ a ty =>
    getAttr (evaluate x₁ req es) a es ty
  | .set xs ty =>
    set (xs.map₁ (λ ⟨x₁, _⟩ => evaluate x₁ req es)) ty
  | .record axs ty =>
    record (axs.map₁ (λ ⟨(a, x₁), _⟩ => (a, (evaluate x₁ req es)))) ty
  | .call xfn xs ty =>
    call xfn (xs.map₁ (λ ⟨x₁, _⟩ => evaluate x₁ req es)) ty
termination_by x
decreasing_by
  all_goals
    simp_wf
    try omega
  any_goals
    rename_i h
    replace h := List.sizeOf_lt_of_mem h
    try simp at h
    omega

end Cedar.TPE

namespace Cedar.Validation 

open Cedar.TPE 

def TypedExpr.toResidual : TypedExpr → Residual
  | .lit p ty => .val (.prim p) ty 
  | .var v ty => .var v ty
  | .ite x₁ x₂ x₃ ty => .ite x₁.toResidual x₂.toResidual x₃.toResidual ty 
  | _ => sorry -- the rest is similar

end Cedar.Validation 


namespace Cedar.TPE

open Cedar.Spec Cedar.Validation

def evaluatePolicy (schema : Schema)
  (p : Policy)
  (req : PartialRequest)
  (es : PartialEntities)
  : Except Error Residual :=
  match schema.environment? req.principal.ty req.resource.ty req.action with
    | .some env =>
      if requestAndEntitiesIsValid env req es
      then
        do
          let expr := substituteAction env.reqty.action p.toExpr
          let (te, _) ← (typeOf expr ∅ env).mapError Error.invalidPolicy
          .ok (evaluate te.liftBoolTypes.toResidual req es)
      else .error .invalidRequestOrEntities
    | .none => .error .invalidEnvironment

end Cedar.TPE
```

### Step 2: Fix the soundness proof for TPE

The new theorem will look like this:

```
theorem partial_evaluate_is_sound
  {x : TypedExpr}
  {req : Request}
  {es : Entities}
  {preq : PartialRequest}
  {pes : PartialEntities}
  {env : TypeEnv} :
  TypedExpr.WellTyped env x →
  InstanceOfWellFormedEnvironment req es env →
  RequestAndEntitiesRefine req es preq pes →
  (Spec.evaluate x.toExpr req es).toOption = (Residual.evaluate (Cedar.TPE.evaluate x.toResidual preq pes) req es).toOption
:= by sorry 
```

For this to proof, you will need to define a `WellTypedResidual` predicate, which will be very similar to `WellTypedExpr` predicate, and then you'll need to prove that `TypedExpr.toResidual` results in a well-typed output when given a well-typed input.

### Step 3: Change the implementation of `batchedEvaluate`

The new `batchedEvaluate` will look something like this:

```
def Residual.allLiteralUIDs (x : Residual) : Set EntityUID := sorry

def Residual.batchedEvaluate
  (x : Residual)
  (req : Request)
  (loader : EntityLoader)
  (store : Entities)
  : Result Value :=
  let toLoad := (TypedExpr.allLiteralUIDs expr).filter (λ uid => (store.find? uid).isNone)
  let newEntities := loader toLoad
  let newStore := newEntities.kvs.foldl (λ acc ed => acc.insert ed.1 ed.2) store

  do
    let newRes := Cedar.TPE.evaluate x (Request.asPartialRequest req) (Entities.asPartial newStore)
    if x = newRes  -- nothing has changed, we are done
    then newRes.evaluate ... -- just evaluate the residual as though the new store / request are complete
    else newRes.batchedEvaluate req loader newStore



def batchedEvaluate
  (x : TypedExpr)
  (req : Request)
  (loader : EntityLoader)
  : Result Value := do 
  let empty_store : Entities := Map.mk []
  -- an initial partial evaluation, removing all variables
  let residual := Cedar.TPE.evaluate x.toResidual (Request.asPartialRequest req) (Entities.asPartial empty_store)
  -- start the batched evaluation loop
  residual.batchedEvaluate req loader empty_store


```

### Step 4:  Prove soundness of `batchedEvaluate`

For this proof, you will need to show two lemmas:
1.  Partial evaluation produces well-typed residuals (given well-typed / well-formed inputs)
2. From that, you'll need to show that partial re-evaluation can be done incrementally.  So, if we have a partial input I1 and I2 such that I1 refines I2 (where you define refinement of partial inputs, similar to the existing definition), then partially evaluating against I1 and then against I2 is the same as just partially evaluating against I2.

Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: Good plan! Working on it now

Comment (shaobo-he-aws) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: Could you please break it down to multiple PRs so that we can DRT the changes while you work on other parts of the plan?

Comment (emina) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: Actually, we can simplify the termination condition to just `newEntites = Map.empty` (nothing new loaded), in which case we're done.

Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: Yep, I'm working in another branch

Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:55]: I like the new termination condition, though it makes proving termination hard. I marked it as partial for now

File: cedar-lean/Cedar/Data/Map.lean [hunk 2]
```diff
@@ -15,6 +15,7 @@
 -/
 
 import Cedar.Data.Set
+import Cedar.Data.List
```
Comment (emina) [inline cedar-lean/Cedar/Data/Map.lean]: We shouldn't need to import the List module here (since it's already imported by Set, which is imported by Map).

File: cedar-lean/Cedar/Data/Map.lean [hunk 3]
```diff
@@ -48,6 +49,12 @@ def empty {α β} : Map α β := .mk []
 def toList {α : Type u} {β : Type v} (m : Map α β) : List (Prod α β) := m.kvs
 
 
+/-- inserts an element, overwriting any existing element -/
+def insert {α β} [LT α] [DecidableLT α] (m : Map α β) (k : α) (v : β) : Map α β :=
+  -- TODO more efficient implementation
+  -- right now just rebuilds the map
+  Map.mk (((Prod.mk k v) :: m.kvs).canonicalize Prod.fst)
```
Comment (emina) [inline cedar-lean/Cedar/Data/Map.lean]:
```suggestion
  Map.make ((k, v) :: m.kvs)
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 4]
```diff
@@ -0,0 +1,123 @@
...
+import Cedar.TPE.Input
+
+namespace Cedar.TPE
+
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+
+def EntityLoader : Type := Set EntityUID → Map EntityUID PartialEntityData
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Why not use an `abbrev` here?

`abbrev EntityLoader := Set EntityUID → Map EntityUID PartialEntityData`

`abbrev`s are generally easier to work with since Lean can "see" their definition (and it becomes opaque when we use `def`).

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 5]
```diff
@@ -0,0 +1,123 @@
...
+def Residual.allLiteralUIDs (x : Residual) : Set EntityUID :=
+  match x with
+  | .val v _ty =>
+    match v with
+    | .prim (.entityUID uid) => Set.singleton uid
+    | _ => Set.empty
+  | .error _e =>
+    Set.empty
+  | .var v _ =>
+    -- these cases should not happen, since the request was fully concrete
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I don't understand this comment.

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+
+def Residual.allLiteralUIDs (x : Residual) : Set EntityUID :=
+  match x with
+  | .val v _ty =>
+    match v with
+    | .prim (.entityUID uid) => Set.singleton uid
+    | _ => Set.empty
+  | .error _e =>
+    Set.empty
+  | .var v _ =>
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]:
```suggestion
  | .var v _ => Set.empty
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 7]
```diff
@@ -0,0 +1,123 @@
...
+    -- these cases should not happen, since the request was fully concrete
+    match v with
+    | .principal => Set.empty
+    | .resource  => Set.empty
+    | .action    => Set.empty
+    | .context   => Set.empty
+  | .ite c t e _ => Residual.allLiteralUIDs c ∪ Residual.allLiteralUIDs t ∪ Residual.allLiteralUIDs e
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Naming convention:  we use `x` for "expressions".  So for `.ite`, the match pattern would be `| .ite x₁ x₂ x₃`.  See, e.g., https://github.com/cedar-policy/cedar-spec/blob/255b05588fd67a05e1b0c25c1279af35fec7bb05/cedar-lean/Cedar/Spec/Evaluator.lean#L93

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+-/
+partial def batchedEvalLoop
+  (residual : Residual)
+  (req : Request)
+  (loader : EntityLoader)
+  (store : PartialEntities)
+  : Result Value :=
+  let toLoad := (Residual.allLiteralUIDs residual).filter (λ uid => (store.find? uid).isNone)
+  let newEntities := loader toLoad
+  let newStore := newEntities.kvs.foldl (λ acc ed => acc.insert ed.1 ed.2) store
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Why do a fold here as opposed to just unioning `store` and `newEntities`?

```
let newStore := Map.make (newEntities.kvs ++ store.kvs)
```

This would be more efficient, and won't need to add the `insert` function in `Cedar.Data.Map` :)

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+  let newRes := Cedar.TPE.evaluate residual (Request.asPartialRequest req) newStore
+
+  match newRes with
+  | .val v _ty => .ok v
+  | _ =>
+    batchedEvalLoop newRes req loader newStore
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Nit: let's remove the line break here and put this expression on the same line as the pattern (it's short).

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 10]
```diff
@@ -0,0 +1,123 @@
...
+-/
+def batchedEvaluate
+  (x : TypedExpr)
+  (req : Request)
+  (loader : EntityLoader)
+  : Result Value :=
+  let emptyStore : PartialEntities := Map.mk []
+  let residual := TypedExpr.toResidual x
+  -- an initial partial evaluation, removing all variables
+  let residual₂ := Cedar.TPE.evaluate residual (Request.asPartialRequest req) emptyStore
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I'd simplify this a bit to remove the extra temporary variables:

```
let residual := Cedar.TPE.evaluate (TypedExpr.toResidual x) (Request.asPartialRequest req) Map.empty
batchedEvalLoop residual req loader Map.empty
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 11]
```diff
@@ -0,0 +1,123 @@
...
+  -- start the batched evaluation loop
+  batchedEvalLoop residual₂ req loader emptyStore
+
+def entityLoaderFor : (e: Entities) -> EntityLoader :=
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Nit:  we use `es` for "Entities" values.

Comment (emina) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: We can write this more simply like this (Lean supports currying for callers):

```
def entityLoaderFor (es: Entities) (uids : Set EntityUID) :  EntityLoader :=
 Map.make (uids.toList.map (λ uid =>
      match (e.find? uid) with
      | .some data =>
        (uid, EntityData.asPartial data)
      | .none =>
        (uid, PartialEntityData.MissingEntity)))
```

File: cedar-lean/Cedar/TPE/Input.lean [hunk 12]
```diff
@@ -43,17 +43,41 @@ structure PartialRequest where
...
+
+
 -- We don't need type annotations here following the rationale above
-structure PartialEntityData where
-  attrs     : Option (Map Attr Value)
-  ancestors : Option (Set EntityUID)
-  tags      : Option (Map Attr Value)
+inductive PartialEntityData where
+  | present (attrs : Option (Map Attr Value)) (ancestors : Option (Set EntityUID)) (tags : Option (Map Attr Value))
+  | MissingEntity
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean]: Nit: we use lowerCaseCamel for constructor names.  I would call this just `absent` (for symmetry with `present` above).

File: cedar-lean/Cedar/TPE/Input.lean [hunk 13]
```diff
@@ -43,17 +43,41 @@ structure PartialRequest where
...
 
+def Entities.asPartial (entities: Entities) : PartialEntities :=
+  entities.mapOnValues EntityData.asPartial
+
 def PartialEntities.get (es : PartialEntities) (uid : EntityUID) (f : PartialEntityData → Option α) : Option α :=
   (es.find? uid).bind f
 
+def PartialEntityData.ancestors : PartialEntityData → Option (Set EntityUID)
+  | .present _ ancestors _ => ancestors
+  | .MissingEntity => .some Set.empty
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean]: I don't follow this:  why is it `.some Set.empty` versus `.none`? 

Same question for the `PartialEntities` functions below.

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 5 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Oops stray comment

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 8 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Ah I've been writing too much rust clearly
Thanks!

File: cedar-lean/Cedar/TPE/Input.lean (hunk 13 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: This is pretty subtle, and it's possible I've made an error (hoping this comes up in the proof).
Looking at the call sites, whenever we access `PartialEntityData.ancestors` and the entity isn't there in the first place, the code can safely return no ancestors. This is because normal evaluation returns false on ancestor checks for missing entities. 

Does that sound right to you? Perhaps I missed a case?

Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: Similarly, a missing entity can have no tags and no attributes (an error will be thrown because the tag won't be found in the case of get tag)

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 4 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: nice idea, I didn't know that!

File: cedar-lean/Cedar/TPE/Input.lean [hunk 14]
```diff
@@ -53,7 +53,7 @@ def Request.asPartialRequest (req : Request) : PartialRequest :=
 -- We don't need type annotations here following the rationale above
 inductive PartialEntityData where
   | present (attrs : Option (Map Attr Value)) (ancestors : Option (Set EntityUID)) (tags : Option (Map Attr Value))
-  | MissingEntity
+  | abset
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean]: Typo: "absent" :)

File: cedar-lean/Cedar/TPE/Input.lean [hunk 15]
```diff
@@ -68,15 +68,15 @@ def PartialEntities.get (es : PartialEntities) (uid : EntityUID) (f : PartialEnt
...
 
 def PartialEntityData.tags : PartialEntityData → Option (Map Attr Value)
   | .present _ _ tags => tags
-  | .MissingEntity => .some Map.empty
+  | .abset => .some Map.empty
 
 def PartialEntityData.attrs : PartialEntityData → Option (Map Attr Value)
   | .present attrs _ _ => attrs
-  | .MissingEntity => .some Map.empty
+  | .abset => .some Map.empty
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean]: Returning `.some Map.empty` for the `.absent` case is not always type-correct.  I think proofs will eventually fail here, because they will expected `PartialEntityData.attrs` to conform to the type of the attribute record specified in the schema.  If such a type contains any required fields, we can't return the empty record here.

File: cedar-lean/Cedar/TPE/Input.lean [hunk 16]
```diff
@@ -68,15 +68,15 @@ def PartialEntities.get (es : PartialEntities) (uid : EntityUID) (f : PartialEnt
 
 def PartialEntityData.ancestors : PartialEntityData → Option (Set EntityUID)
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean:57]: Why is the type here `Option T` rather than just `T`, given that neither of the cases ever return `none`?

File: cedar-lean/Cedar/TPE/Input.lean [hunk 17]
```diff
@@ -68,15 +68,15 @@ def PartialEntities.get (es : PartialEntities) (uid : EntityUID) (f : PartialEnt
...
   | .present _ ancestors _ => ancestors
-  | .MissingEntity => .some Set.empty
+  | .abset => .some Set.empty
 
 def PartialEntityData.tags : PartialEntityData → Option (Map Attr Value)
```
Comment (emina) [inline cedar-lean/Cedar/TPE/Input.lean]: Same question as above:  why is the type `Option (Map Attr Value)` rather than `(Map Tag Value)`, given that `none` is never returned?

(Also note that we use `Tag` instead of `Attr` as the abbreviation for String when we're referring to tag keys.)

File: cedar-lean/Cedar/TPE/Input.lean (hunk 16 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean:57]: Actually the first case sometimes returns none, since partial entities may not come with the ancestors

File: cedar-lean/Cedar/TPE/Input.lean (hunk 17 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: Similarly, the tags might not be provided on present entities so the first case can return none

File: cedar-lean/Cedar/TPE/Input.lean (hunk 15 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: That's a great point! I think this doesn't actually end up causing problems in the proof because the returned map is always used immediately in a computation that fails.
This is called by `getAttr` and `hasAttr`, both of which return a boolean. In other words, this map doesn't end up a part of the resulting residual. 

I was able to get the proof that PE produces a well typed residual to go through

File: cedar-lean/Cedar/TPE/Input.lean (hunk 14 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: thanks

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 18]
```diff
@@ -0,0 +1,112 @@
...
+  | .getAttr x _ _ => Residual.allLiteralUIDs x
+  | .hasAttr x _ _ => Residual.allLiteralUIDs x
+  | .set x _ => x.mapUnion₁ (λ ⟨v, _⟩ => Residual.allLiteralUIDs v)
+  | .record x _ => x.mapUnion₂ (λ ⟨⟨_attr, v⟩, _⟩ => Residual.allLiteralUIDs v)
+  | .call _ x _ => x.mapUnion₁ (λ ⟨v, _⟩ => Residual.allLiteralUIDs v)
+termination_by sizeOf x
+decreasing_by
+  repeat case _ =>
+    simp [*]; try omega
+  . rename_i h
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I haven't tried this in the Lean IDE :) but it seems like we should be able to replace these try `. rename_i h` cases with something along the following lines:

```
all_goals {
  rename_i h
  simp at *
  omega 
}
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 19]
```diff
@@ -0,0 +1,112 @@
...
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+
+abbrev EntityLoader := Set EntityUID → Map EntityUID PartialEntityData
+
+def Residual.allLiteralUIDs (x : Residual) : Set EntityUID :=
+  match x with
+  | .val v _ty =>
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: A personal formatting preference:  I like to vertically align `=>` for each case.  It's easier to quickly scan the per-case code (for me at least).

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 20]
```diff
@@ -0,0 +1,112 @@
...
+Evaluate a cedar expression using an EntityLoader
+instead of a full Entities store.
+This algorithm minimizes the number of calls to the EntityLoader using partial evaluation.
+-/
+def batchedEvaluate
+  (x : TypedExpr)
+  (req : Request)
+  (loader : EntityLoader)
+  : Result Value :=
+  let emptyStore : PartialEntities := Map.mk []
```
Comment (emina) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I think you should be able to delete this line, and change 104 to `batchedEvalLoop residual req loader Map.empty`.

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 18 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Nice idea, I was able to get this to work

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 19 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: nice, done

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 20 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: yep!

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 21]
```diff
@@ -0,0 +1,112 @@
...
+abbrev EntityLoader := Set EntityUID → Map EntityUID PartialEntityData
+
+def Residual.allLiteralUIDs (x : Residual) : Set EntityUID :=
+  match x with
+  | .val (.prim (.entityUID uid)) _ty  => Set.singleton uid
+  | .val _ _                           => Set.empty
+  | .error _e                          => Set.empty
+  | .var _ _                           => Set.empty
+  | .ite x₁ x₂ x₃ _      =>
+    Residual.allLiteralUIDs x₁ ∪ Residual.allLiteralUIDs x₂ ∪ Residual.allLiteralUIDs x₃
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]:
```suggestion
    x₁.allLiteralUIDs ∪ x₂.allLiteralUIDs ∪ x₃.allLiteralUIDs
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 22]
```diff
@@ -0,0 +1,112 @@
...
+-/
+partial def batchedEvalLoop
+  (residual : Residual)
+  (req : Request)
+  (loader : EntityLoader)
+  (store : PartialEntities)
+  : Result Value :=
+  let toLoad := (Residual.allLiteralUIDs residual).filter (λ uid => (store.find? uid).isNone)
+  let newEntities := loader toLoad
+  let newStore := Map.make (newEntities.kvs ++ store.kvs)
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Does our `Map` type support the union operator?

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 23]
```diff
@@ -0,0 +1,112 @@
...
+  let newRes := Cedar.TPE.evaluate residual (Request.asPartialRequest req) newStore
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]:
```suggestion
  let newRes := Cedar.TPE.evaluate residual req.asPartialRequest newStore
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 24]
```diff
@@ -0,0 +1,112 @@
...
+Evaluate a cedar expression using an EntityLoader
+instead of a full Entities store.
+This algorithm minimizes the number of calls to the EntityLoader using partial evaluation.
+-/
+def batchedEvaluate
+  (x : TypedExpr)
+  (req : Request)
+  (loader : EntityLoader)
+  : Result Value :=
+  let residual := Cedar.TPE.evaluate (TypedExpr.toResidual x) (Request.asPartialRequest req) Map.empty
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean]:
```suggestion
  let residual := Cedar.TPE.evaluate x.toResidual req.asPartialRequest Map.empty
```

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean [hunk 25]
```diff
@@ -0,0 +1,112 @@
...
+  -- start the batched evaluation loop
+  batchedEvalLoop residual req loader Map.empty
+
+def entityLoaderFor (es: Entities) (uids : Set EntityUID) :=
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/BatchedEvaluator.lean:77]: Can we get a comment explaining this function?  I think `entityLoaderFor es` is an `EntityLoader` that just "loads" data from the given `es`?

File: cedar-lean/Cedar/TPE/Input.lean [hunk 26]
```diff
@@ -138,7 +163,7 @@ where
       es₂.kvs.all λ (a₂, e₂) => match es₁.find? a₂ with
         | .some e₁ =>
           let ⟨attrs₁, ancestors₁, tags₁⟩ := e₁
-          let ⟨attrs₂, ancestors₂, tags₂⟩ := e₂
+          let (attrs₂, ancestors₂, tags₂) := (e₂.attrs, e₂.ancestors, e₂.tags)
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/TPE/Input.lean]: is this `let` helping readability?  The newly bound names are essentially the same length/complexity as the old ones

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 27]
```diff
@@ -752,6 +752,19 @@ theorem in_kvs_in_mapOnValues [LT α] [DecidableLT α] [DecidableEq α] {f : β
   simp only [kvs, List.mem_map, Prod.mk.injEq]
   exists (k, v)
 
+
+/--
+  Given a hypothesis like:
+    h: Data.Map.find? es uid = none
+  Proves something like:
+    Data.Map.findOrErr es uid Error.entityDoesNotExist
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean]:
```suggestion
    Data.Map.findOrErr es uid Error.entityDoesNotExist = .error .entityDoesNotExist
```

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 28]
```diff
@@ -752,6 +752,19 @@ theorem in_kvs_in_mapOnValues [LT α] [DecidableLT α] [DecidableEq α] {f : β
...
+-/
+theorem find?_none_implies_findorErr_errors [LT α] [DecidableLT α] [DecidableEq α] {m : Map α β} {k : α} (e : Error) :
+  m.find? k = none → m.findOrErr k e = .error e
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean]: Should we go ahead and prove this as an iff?

**Review by cdisselkoen — APPROVED** [review]
Looks great! Mostly tiny syntax nits

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 23 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I can't use dot notation here because `Request.asPartialRequest` isn't defined in the same namespace as Request
I can't move it over to the same namespace because it causes build cycle issues with partial requests

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 22 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: I don't think so- I think it would be werid because `Map.union a b != Map.union b a`

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 24 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: same here

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 25 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean:77]: Good idea
Yep!

File: cedar-lean/Cedar/TPE/Input.lean (hunk 26 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/Input.lean]: good point

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 22 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: In that case should `Map` support the `++` operator directly?

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 23 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Can you get around that by putting it inside `namespace ... end` in its current file, without moving it to another file?  Would that fix the build cycle issues?

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 28 above)
Comment (oflatt) [reply cedar-lean/Cedar/Thm/Data/Map.lean]: sure

**Review by emina — APPROVED** [review]

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 22 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: sure!

File: cedar-lean/Cedar/TPE/BatchedEvaluator.lean (hunk 23 above)
Comment (oflatt) [reply cedar-lean/Cedar/TPE/BatchedEvaluator.lean]: Oh that works, thanks for the tip

**Review by emina — APPROVED** [review]
